US07381732B2
Part A: To a 0° C. solution of 5-methoxyanthranilic acid (5.0 g, 29.9 mmol) in concentrated hydrochloric acid (10 mL) was added dropwise an ice cold solution of sodium nitrite (2.06 g, 29.9 mmol) in water (5 mL) and stirring was continued at 0° C. for 30 minutes. Stannous chloride dihydrate (16.8 g, 74.8 mmol) was dissolved in concentrated hydrochloric acid (16 mL), cooled to 0° C., and added slowly to the solution of the diazonium salt. The precipitate was agitated, kept at 0° C. for 30 minutes, and then filtered. The solids were washed successively with ice cold brine and petroleum ether and dried under a stream of air and then under vacuum. The crude hydrazine salt and 3-hydroxy-1-(4-iodo-phenyl)-4-(2,2,2-trifluoro-acetyl)-5,6-dihydro-1H-pyridin-2-one (12.3 g, 29.9 mmol) were combined in glacial acetic acid (50 mL) and heated to 80° C. Upon completion of the reaction the solvent was evaporated to a viscous oil which was subjected to silica gel column chromatography to yield 2-[6-(4-iodo-phenyl)-7-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-pyrazolo[3,4-c]pyridin-1-yl]-5-methoxy-benzoic acid methyl ester (4.12 g, 24%). MS (AP+) 571.9 (100%).

reactant | 5-methoxyanthranilic acid | 29.9 mmol, 5.0 g | COC1=CC=C(C(C(=O)O)=C1)N | C8H9NO3
reactant | sodium nitrite | 29.9 mmol, 2.06 g | N(=O)[O-].[Na+]
reactant | hydrazine | NN | H4N2
reactant | 3-hydroxy-1-(4-iodo-phenyl)-4-(2,2,2-trifluoro-acetyl)-5,6-dihydro-1H-pyridin-2-one | 29.9 mmol, 12.3 g | OC=1C(N(CCC1C(C(F)(F)F)=O)C1=CC=C(C=C1)I)=O | C13H9F3INO3
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 10 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | hydrochloric acid | 16 mL | Cl | ClH
product | 2-[6-(4-iodo-phenyl)-7-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-pyrazolo[3,4-c]pyridin-1-yl]-5-methoxy-benzoic acid methyl ester | 4.12 g, 24% | COC(C1=C(C=CC(=C1)OC)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)I)=O)C(F)(F)F)=O | C22H17F3IN3O4
